US06642204B2
To a solution of tert-butyl isothiocyanate (5.0 mL; 39.4 mmoL) in DCM (200 mL) was added cyclopentylamine (4.67 mL; 47.3 mmoL) followed by DIEA and the reaction mixture was stirred at R.T. for 2 h. The mixture was diluted with EtOAc, washed with a 10% aqueous solution of citric acid (2×), saturated NaHCO3 (2×), H2O (2×) and brine (1×). The organic layer was dried over anhydrous MgSO4, filtered and evaporated to yield N-tert-butyl-N′-cyclopentyl thiourea as a white solid (3.70 g; 47% yield). The N-tert-butyl-N′-cyclopentyl thiourea (3.70 g) was dissolved in concentrated HCl (46 mL). The dark yellow solution was heated at a gentle reflux. After 40 min the reaction mixture was allowed to cool to R.T. and thereafter cooled in ice and rendered basic to pH 9.5 with solid and a saturated aqueous solution of NaHCO3. The product was extracted into EtOAc (3×). The combined EtOAc extracts were washed with H2O (2×) and brine (1×). The organic layer was dried (MgSO4), filtered and concentrated to yield a beige solid (2.46 g crude). Trituration of the crude material in hexane/EtOAc 95/5 provided, after filtration, the N-cyclopentythiourea 8a as a white solid (2.38; 90% yield).

reactant | tert-butyl isothiocyanate | 5.0 mL | C(C)(C)(C)N=C=S | C5H9NS
reactant | cyclopentylamine | 4.67 mL | C1(CCCC1)N | C5H11N
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-tert-butyl-N′-cyclopentyl thiourea | 47% yield | C(C)(C)(C)NC(=S)NC1CCCC1 | C10H20N2S
